* EQUIVALENT CIRCUIT FOR VECTOR FITTED S-MATRIX
* Created using scikit-rf vectorFitting.py
*
.SUBCKT s_equivalent p1 p2
*
* Port network for port 1
V1 p1 s1 0
R1 s1 0 50.0
Gd1_1 0 s1 p1 0 -0.15748293814588799
Fd1_1 0 s1 V1 -7.874146907294399
Gr1_1_1 0 s1 x1_a1 0 -3.1892655804618116e+16
Gr2_1_1 0 s1 x2_a1 0 2.8477080923200444e+16
Gr3_1_1 0 s1 x3_a1 0 -1.734956249280057e+17
Gr4_1_1 0 s1 x4_a1 0 1.212025542017424e+17
Gr5_1_1 0 s1 x5_a1 0 -6.910550597599776e+17
Gr6_1_1 0 s1 x6_a1 0 3.5112489283450496e+17
Gr7_1_1 0 s1 x7_a1 0 1.2789545349221307e+18
Gr8_1_1 0 s1 x8_a1 0 -4.0824591571462794e+18
Gr9_1_1 0 s1 x9_a1 0 1.2859191675930806e+19
Gr10_1_1 0 s1 x10_a1 0 -5.4829341531208475e+19
Gr11_re_1_1 0 s1 x11_re_a1 0 -2.574662375575932e+19
Gr11_im_1_1 0 s1 x11_im_a1 0 -1.30137955230447e+19
Gr12_1_1 0 s1 x12_a1 0 1.1573201501652055e+20
Gr13_re_1_1 0 s1 x13_re_a1 0 4.043368910398328e+17
Gr13_im_1_1 0 s1 x13_im_a1 0 -2.0987445388277847e+18
Gr14_re_1_1 0 s1 x14_re_a1 0 -7.622483510503545e+18
Gr14_im_1_1 0 s1 x14_im_a1 0 2.933813380029846e+19
Gr15_re_1_1 0 s1 x15_re_a1 0 -2.3673753668096517e+18
Gr15_im_1_1 0 s1 x15_im_a1 0 1.1954809395896717e+18
Gr16_re_1_1 0 s1 x16_re_a1 0 1.8046492050823197e+17
Gr16_im_1_1 0 s1 x16_im_a1 0 6.42848325816986e+16
Gr17_re_1_1 0 s1 x17_re_a1 0 -1.3559648953360686e+17
Gr17_im_1_1 0 s1 x17_im_a1 0 -2.1158214738129258e+17
Gr18_re_1_1 0 s1 x18_re_a1 0 -1.3646272691665792e+16
Gr18_im_1_1 0 s1 x18_im_a1 0 7696130637078477.0
Gr19_1_1 0 s1 x19_a1 0 -410122493141981.06
Gr20_re_1_1 0 s1 x20_re_a1 0 1.9975465132125468e+16
Gr20_im_1_1 0 s1 x20_im_a1 0 -3036254019840558.0
Gr21_re_1_1 0 s1 x21_re_a1 0 682038848635306.5
Gr21_im_1_1 0 s1 x21_im_a1 0 -1258206862644921.8
Gr22_re_1_1 0 s1 x22_re_a1 0 -861760970362497.4
Gr22_im_1_1 0 s1 x22_im_a1 0 1191507304637304.8
Gr23_re_1_1 0 s1 x23_re_a1 0 -12059410063115.03
Gr23_im_1_1 0 s1 x23_im_a1 0 -986735811833.6038
Gr24_re_1_1 0 s1 x24_re_a1 0 1280924978565.9194
Gr24_im_1_1 0 s1 x24_im_a1 0 -1497719908875.6914
Gd1_2 0 s1 p2 0 -0.03721789578249248
Fd1_2 0 s1 V2 -1.8608947891246244
Gr1_1_2 0 s1 x1_a2 0 -7988949290510338.0
Gr2_1_2 0 s1 x2_a2 0 7130658275001277.0
Gr3_1_2 0 s1 x3_a2 0 -4.351355321842615e+16
Gr4_1_2 0 s1 x4_a2 0 3.04094334062915e+16
Gr5_1_2 0 s1 x5_a2 0 -1.7281957252673494e+17
Gr6_1_2 0 s1 x6_a2 0 8.788341793965997e+16
Gr7_1_2 0 s1 x7_a2 0 3.195146040071354e+17
Gr8_1_2 0 s1 x8_a2 0 -1.0192299772977659e+18
Gr9_1_2 0 s1 x9_a2 0 3.209682396422101e+18
Gr10_1_2 0 s1 x10_a2 0 -1.3686551428114455e+19
Gr11_re_1_2 0 s1 x11_re_a2 0 -6.426217421866362e+18
Gr11_im_1_2 0 s1 x11_im_a2 0 -3.25319838982878e+18
Gr12_1_2 0 s1 x12_a2 0 2.8899903459589796e+19
Gr13_re_1_2 0 s1 x13_re_a2 0 1.0193351162591557e+17
Gr13_im_1_2 0 s1 x13_im_a2 0 -5.239786366020749e+17
Gr14_re_1_2 0 s1 x14_re_a2 0 -1.9087066295630282e+18
Gr14_im_1_2 0 s1 x14_im_a2 0 7.327071603683559e+18
Gr15_re_1_2 0 s1 x15_re_a2 0 -5.920001542877539e+17
Gr15_im_1_2 0 s1 x15_im_a2 0 2.9764301748992986e+17
Gr16_re_1_2 0 s1 x16_re_a2 0 4.506122421974397e+16
Gr16_im_1_2 0 s1 x16_im_a2 0 1.6193033404312792e+16
Gr17_re_1_2 0 s1 x17_re_a2 0 -3.3757689450294228e+16
Gr17_im_1_2 0 s1 x17_im_a2 0 -5.297957475514553e+16
Gr18_re_1_2 0 s1 x18_re_a2 0 -3419280356539390.5
Gr18_im_1_2 0 s1 x18_im_a2 0 1916364059088049.2
Gr19_1_2 0 s1 x19_a2 0 -102679801426389.23
Gr20_re_1_2 0 s1 x20_re_a2 0 4999238329694689.0
Gr20_im_1_2 0 s1 x20_im_a2 0 -746558105655431.2
Gr21_re_1_2 0 s1 x21_re_a2 0 171223302540820.5
Gr21_im_1_2 0 s1 x21_im_a2 0 -314488602225225.3
Gr22_re_1_2 0 s1 x22_re_a2 0 -216156859851067.56
Gr22_im_1_2 0 s1 x22_im_a2 0 297714194900604.7
Gr23_re_1_2 0 s1 x23_re_a2 0 -3015754837934.6733
Gr23_im_1_2 0 s1 x23_im_a2 0 -251229023058.39874
Gr24_re_1_2 0 s1 x24_re_a2 0 320509240657.17523
Gr24_im_1_2 0 s1 x24_im_a2 0 -373644018494.0289
*
* State networks driven by port 1
Cx1_a1 x1_a1 0 1.0
Gx1_a1 0 x1_a1 p1 0 0.07071067811865475
Fx1_a1 0 x1_a1 V1 3.5355339059327378
Rp1_a1 0 x1_a1 2.672821726855924e-13
Cx2_a1 x2_a1 0 1.0
Gx2_a1 0 x2_a1 p1 0 0.07071067811865475
Fx2_a1 0 x2_a1 V1 3.5355339059327378
Rp2_a1 0 x2_a1 2.588824245396366e-13
Cx3_a1 x3_a1 0 1.0
Gx3_a1 0 x3_a1 p1 0 0.07071067811865475
Fx3_a1 0 x3_a1 V1 3.5355339059327378
Rp3_a1 0 x3_a1 6.430307000436848e-13
Cx4_a1 x4_a1 0 1.0
Gx4_a1 0 x4_a1 p1 0 0.07071067811865475
Fx4_a1 0 x4_a1 V1 3.5355339059327378
Rp4_a1 0 x4_a1 5.83470294586987e-13
Cx5_a1 x5_a1 0 1.0
Gx5_a1 0 x5_a1 p1 0 0.07071067811865475
Fx5_a1 0 x5_a1 V1 3.5355339059327378
Rp5_a1 0 x5_a1 1.2803637391134486e-12
Cx6_a1 x6_a1 0 1.0
Gx6_a1 0 x6_a1 p1 0 0.07071067811865475
Fx6_a1 0 x6_a1 V1 3.5355339059327378
Rp6_a1 0 x6_a1 1.033453336010569e-12
Cx7_a1 x7_a1 0 1.0
Gx7_a1 0 x7_a1 p1 0 0.07071067811865475
Fx7_a1 0 x7_a1 V1 3.5355339059327378
Rp7_a1 0 x7_a1 1.778950797836235e-12
Cx8_a1 x8_a1 0 1.0
Gx8_a1 0 x8_a1 p1 0 0.07071067811865475
Fx8_a1 0 x8_a1 V1 3.5355339059327378
Rp8_a1 0 x8_a1 2.490549742398037e-12
Cx9_a1 x9_a1 0 1.0
Gx9_a1 0 x9_a1 p1 0 0.07071067811865475
Fx9_a1 0 x9_a1 V1 3.5355339059327378
Rp9_a1 0 x9_a1 3.304461047458408e-12
Cx10_a1 x10_a1 0 1.0
Gx10_a1 0 x10_a1 p1 0 0.07071067811865475
Fx10_a1 0 x10_a1 V1 3.5355339059327378
Rp10_a1 0 x10_a1 4.615817622466777e-12
Cx11_re_a1 x11_re_a1 0 1.0
Gx11_re_a1 0 x11_re_a1 p1 0 0.1414213562373095
Fx11_re_a1 0 x11_re_a1 V1 7.0710678118654755
Rp11_re_re_a1 0 x11_re_a1 6.831561572348102e-12
Gp11_re_im_a1 0 x11_re_a1 x11_im_a1 0 60789941952.52058
Cx11_im_a1 x11_im_a1 0 1.0
Gp11_im_re_a1 0 x11_im_a1 x11_re_a1 0 -60789941952.52058
Rp11_im_im_a1 0 x11_im_a1 6.831561572348102e-12
Cx12_a1 x12_a1 0 1.0
Gx12_a1 0 x12_a1 p1 0 0.07071067811865475
Fx12_a1 0 x12_a1 V1 3.5355339059327378
Rp12_a1 0 x12_a1 6.375826798187748e-12
Cx13_re_a1 x13_re_a1 0 1.0
Gx13_re_a1 0 x13_re_a1 p1 0 0.1414213562373095
Fx13_re_a1 0 x13_re_a1 V1 7.0710678118654755
Rp13_re_re_a1 0 x13_re_a1 1.1772687098021531e-11
Gp13_re_im_a1 0 x13_re_a1 x13_im_a1 0 88556845052.57948
Cx13_im_a1 x13_im_a1 0 1.0
Gp13_im_re_a1 0 x13_im_a1 x13_re_a1 0 -88556845052.57948
Rp13_im_im_a1 0 x13_im_a1 1.1772687098021531e-11
Cx14_re_a1 x14_re_a1 0 1.0
Gx14_re_a1 0 x14_re_a1 p1 0 0.1414213562373095
Fx14_re_a1 0 x14_re_a1 V1 7.0710678118654755
Rp14_re_re_a1 0 x14_re_a1 8.365289690422088e-12
Gp14_re_im_a1 0 x14_re_a1 x14_im_a1 0 42188287234.93895
Cx14_im_a1 x14_im_a1 0 1.0
Gp14_im_re_a1 0 x14_im_a1 x14_re_a1 0 -42188287234.93895
Rp14_im_im_a1 0 x14_im_a1 8.365289690422088e-12
Cx15_re_a1 x15_re_a1 0 1.0
Gx15_re_a1 0 x15_re_a1 p1 0 0.1414213562373095
Fx15_re_a1 0 x15_re_a1 V1 7.0710678118654755
Rp15_re_re_a1 0 x15_re_a1 1.2948208999488316e-11
Gp15_re_im_a1 0 x15_re_a1 x15_im_a1 0 76174888057.88498
Cx15_im_a1 x15_im_a1 0 1.0
Gp15_im_re_a1 0 x15_im_a1 x15_re_a1 0 -76174888057.88498
Rp15_im_im_a1 0 x15_im_a1 1.2948208999488316e-11
Cx16_re_a1 x16_re_a1 0 1.0
Gx16_re_a1 0 x16_re_a1 p1 0 0.1414213562373095
Fx16_re_a1 0 x16_re_a1 V1 7.0710678118654755
Rp16_re_re_a1 0 x16_re_a1 2.2062911774421782e-11
Gp16_re_im_a1 0 x16_re_a1 x16_im_a1 0 92459106401.36237
Cx16_im_a1 x16_im_a1 0 1.0
Gp16_im_re_a1 0 x16_im_a1 x16_re_a1 0 -92459106401.36237
Rp16_im_im_a1 0 x16_im_a1 2.2062911774421782e-11
Cx17_re_a1 x17_re_a1 0 1.0
Gx17_re_a1 0 x17_re_a1 p1 0 0.1414213562373095
Fx17_re_a1 0 x17_re_a1 V1 7.0710678118654755
Rp17_re_re_a1 0 x17_re_a1 2.2650317303266762e-11
Gp17_re_im_a1 0 x17_re_a1 x17_im_a1 0 86379908967.33153
Cx17_im_a1 x17_im_a1 0 1.0
Gp17_im_re_a1 0 x17_im_a1 x17_re_a1 0 -86379908967.33153
Rp17_im_im_a1 0 x17_im_a1 2.2650317303266762e-11
Cx18_re_a1 x18_re_a1 0 1.0
Gx18_re_a1 0 x18_re_a1 p1 0 0.1414213562373095
Fx18_re_a1 0 x18_re_a1 V1 7.0710678118654755
Rp18_re_re_a1 0 x18_re_a1 4.8800500685664e-11
Gp18_re_im_a1 0 x18_re_a1 x18_im_a1 0 89392790390.888
Cx18_im_a1 x18_im_a1 0 1.0
Gp18_im_re_a1 0 x18_im_a1 x18_re_a1 0 -89392790390.888
Rp18_im_im_a1 0 x18_im_a1 4.8800500685664e-11
Cx19_a1 x19_a1 0 1.0
Gx19_a1 0 x19_a1 p1 0 0.07071067811865475
Fx19_a1 0 x19_a1 V1 3.5355339059327378
Rp19_a1 0 x19_a1 2.8990011862716203e-11
Cx20_re_a1 x20_re_a1 0 1.0
Gx20_re_a1 0 x20_re_a1 p1 0 0.1414213562373095
Fx20_re_a1 0 x20_re_a1 V1 7.0710678118654755
Rp20_re_re_a1 0 x20_re_a1 4.793793934243756e-11
Gp20_re_im_a1 0 x20_re_a1 x20_im_a1 0 87371708654.64984
Cx20_im_a1 x20_im_a1 0 1.0
Gp20_im_re_a1 0 x20_im_a1 x20_re_a1 0 -87371708654.64984
Rp20_im_im_a1 0 x20_im_a1 4.793793934243756e-11
Cx21_re_a1 x21_re_a1 0 1.0
Gx21_re_a1 0 x21_re_a1 p1 0 0.1414213562373095
Fx21_re_a1 0 x21_re_a1 V1 7.0710678118654755
Rp21_re_re_a1 0 x21_re_a1 2.0451332168374075e-10
Gp21_re_im_a1 0 x21_re_a1 x21_im_a1 0 84006258534.86775
Cx21_im_a1 x21_im_a1 0 1.0
Gp21_im_re_a1 0 x21_im_a1 x21_re_a1 0 -84006258534.86775
Rp21_im_im_a1 0 x21_im_a1 2.0451332168374075e-10
Cx22_re_a1 x22_re_a1 0 1.0
Gx22_re_a1 0 x22_re_a1 p1 0 0.1414213562373095
Fx22_re_a1 0 x22_re_a1 V1 7.0710678118654755
Rp22_re_re_a1 0 x22_re_a1 2.032975558017778e-10
Gp22_re_im_a1 0 x22_re_a1 x22_im_a1 0 83691213875.67369
Cx22_im_a1 x22_im_a1 0 1.0
Gp22_im_re_a1 0 x22_im_a1 x22_re_a1 0 -83691213875.67369
Rp22_im_im_a1 0 x22_im_a1 2.032975558017778e-10
Cx23_re_a1 x23_re_a1 0 1.0
Gx23_re_a1 0 x23_re_a1 p1 0 0.1414213562373095
Fx23_re_a1 0 x23_re_a1 V1 7.0710678118654755
Rp23_re_re_a1 0 x23_re_a1 2.7751250416275106e-07
Gp23_re_im_a1 0 x23_re_a1 x23_im_a1 0 73320507111.27255
Cx23_im_a1 x23_im_a1 0 1.0
Gp23_im_re_a1 0 x23_im_a1 x23_re_a1 0 -73320507111.27255
Rp23_im_im_a1 0 x23_im_a1 2.7751250416275106e-07
Cx24_re_a1 x24_re_a1 0 1.0
Gx24_re_a1 0 x24_re_a1 p1 0 0.1414213562373095
Fx24_re_a1 0 x24_re_a1 V1 7.0710678118654755
Rp24_re_re_a1 0 x24_re_a1 0.010042324306513778
Gp24_re_im_a1 0 x24_re_a1 x24_im_a1 0 62894685110.805626
Cx24_im_a1 x24_im_a1 0 1.0
Gp24_im_re_a1 0 x24_im_a1 x24_re_a1 0 -62894685110.805626
Rp24_im_im_a1 0 x24_im_a1 0.010042324306513778
*
* Port network for port 2
V2 p2 s2 0
R2 s2 0 50.0
Gd2_1 0 s2 p1 0 -0.03721789578249248
Fd2_1 0 s2 V1 -1.8608947891246244
Gr1_2_1 0 s2 x1_a1 0 -7988949290726922.0
Gr2_2_1 0 s2 x2_a1 0 7130658275177086.0
Gr3_2_1 0 s2 x3_a1 0 -4.35135532218827e+16
Gr4_2_1 0 s2 x4_a1 0 3.0409433408708784e+16
Gr5_2_1 0 s2 x5_a1 0 -1.7281957251873555e+17
Gr6_2_1 0 s2 x6_a1 0 8.788341794159315e+16
Gr7_2_1 0 s2 x7_a1 0 3.195146039385528e+17
Gr8_2_1 0 s2 x8_a1 0 -1.0192299768186597e+18
Gr9_2_1 0 s2 x9_a1 0 3.2096823940193756e+18
Gr10_2_1 0 s2 x10_a1 0 -1.368655141233419e+19
Gr11_re_2_1 0 s2 x11_re_a1 0 -6.426217413807319e+18
Gr11_im_2_1 0 s2 x11_im_a1 0 -3.2531983808052526e+18
Gr12_2_1 0 s2 x12_a1 0 2.8899903412889977e+19
Gr13_re_2_1 0 s2 x13_re_a1 0 1.0193351063332349e+17
Gr13_im_2_1 0 s2 x13_im_a1 0 -5.239786357169406e+17
Gr14_re_2_1 0 s2 x14_re_a1 0 -1.908706621857811e+18
Gr14_im_2_1 0 s2 x14_im_a1 0 7.327071590462164e+18
Gr15_re_2_1 0 s2 x15_re_a1 0 -5.920001524985213e+17
Gr15_im_2_1 0 s2 x15_im_a1 0 2.97643017653468e+17
Gr16_re_2_1 0 s2 x16_re_a1 0 4.506122414287985e+16
Gr16_im_2_1 0 s2 x16_im_a1 0 1.6193033249786448e+16
Gr17_re_2_1 0 s2 x17_re_a1 0 -3.3757689481451664e+16
Gr17_im_2_1 0 s2 x17_im_a1 0 -5.2979574525538424e+16
Gr18_re_2_1 0 s2 x18_re_a1 0 -3419280339092184.5
Gr18_im_2_1 0 s2 x18_im_a1 0 1916364063915708.5
Gr19_2_1 0 s2 x19_a1 0 -102679801126544.92
Gr20_re_2_1 0 s2 x20_re_a1 0 4999238310558706.0
Gr20_im_2_1 0 s2 x20_im_a1 0 -746558119176020.4
Gr21_re_2_1 0 s2 x21_re_a1 0 171223300719958.03
Gr21_im_2_1 0 s2 x21_im_a1 0 -314488601655072.4
Gr22_re_2_1 0 s2 x22_re_a1 0 -216156857924996.9
Gr22_im_2_1 0 s2 x22_im_a1 0 297714194559237.6
Gr23_re_2_1 0 s2 x23_re_a1 0 -3015754828660.157
Gr23_im_2_1 0 s2 x23_im_a1 0 -251229009860.16287
Gr24_re_2_1 0 s2 x24_re_a1 0 320509237244.9947
Gr24_im_2_1 0 s2 x24_im_a1 0 -373644018301.9449
Gd2_2 0 s2 p2 0 -0.03331591901834164
Fd2_2 0 s2 V2 -1.6657959509170819
Gr1_2_2 0 s2 x1_a2 0 -5239826598801955.0
Gr2_2_2 0 s2 x2_a2 0 4687691094500765.0
Gr3_2_2 0 s2 x3_a2 0 -2.8325603851484736e+16
Gr4_2_2 0 s2 x4_a2 0 1.975048136110478e+16
Gr5_2_2 0 s2 x5_a2 0 -1.1449703066098714e+17
Gr6_2_2 0 s2 x6_a2 0 5.792895597412627e+16
Gr7_2_2 0 s2 x7_a2 0 2.1299950037124214e+17
Gr8_2_2 0 s2 x8_a2 0 -6.821578739625343e+17
Gr9_2_2 0 s2 x9_a2 0 2.1513099906972808e+18
Gr10_2_2 0 s2 x10_a2 0 -9.170084564976862e+18
Gr11_re_2_2 0 s2 x11_re_a2 0 -4.3082452873643443e+18
Gr11_im_2_2 0 s2 x11_im_a2 0 -2.1617734443475e+18
Gr12_2_2 0 s2 x12_a2 0 1.9322270481039725e+19
Gr13_re_2_2 0 s2 x13_re_a2 0 6.443098618998261e+16
Gr13_im_2_2 0 s2 x13_im_a2 0 -3.506774652795214e+17
Gr14_re_2_2 0 s2 x14_re_a2 0 -1.2561261976351293e+18
Gr14_im_2_2 0 s2 x14_im_a2 0 4.895182016932855e+18
Gr15_re_2_2 0 s2 x15_re_a2 0 -3.925442107083145e+17
Gr15_im_2_2 0 s2 x15_im_a2 0 2.0232552144845312e+17
Gr16_re_2_2 0 s2 x16_re_a2 0 3.012046446372796e+16
Gr16_im_2_2 0 s2 x16_im_a2 0 1.0279758857346212e+16
Gr17_re_2_2 0 s2 x17_re_a2 0 -2.2944754576140496e+16
Gr17_im_2_2 0 s2 x17_im_a2 0 -3.4844268413508732e+16
Gr18_re_2_2 0 s2 x18_re_a2 0 -2238131457043759.5
Gr18_im_2_2 0 s2 x18_im_a2 0 1300448214347102.5
Gr19_2_2 0 s2 x19_a2 0 -67679495913092.055
Gr20_re_2_2 0 s2 x20_re_a2 0 3295014790903574.0
Gr20_im_2_2 0 s2 x20_im_a2 0 -542907342252588.2
Gr21_re_2_2 0 s2 x21_re_a2 0 110701385961886.33
Gr21_im_2_2 0 s2 x21_im_a2 0 -208704469423065.5
Gr22_re_2_2 0 s2 x22_re_a2 0 -140473262887535.06
Gr22_im_2_2 0 s2 x22_im_a2 0 197971046901314.22
Gr23_re_2_2 0 s2 x23_re_a2 0 -1993967684873.8025
Gr23_im_2_2 0 s2 x23_im_a2 0 -147604552307.23453
Gr24_re_2_2 0 s2 x24_re_a2 0 210851366653.69678
Gr24_im_2_2 0 s2 x24_im_a2 0 -249536013455.1196
*
* State networks driven by port 2
Cx1_a2 x1_a2 0 1.0
Gx1_a2 0 x1_a2 p2 0 0.07071067811865475
Fx1_a2 0 x1_a2 V2 3.5355339059327378
Rp1_a2 0 x1_a2 2.672821726855924e-13
Cx2_a2 x2_a2 0 1.0
Gx2_a2 0 x2_a2 p2 0 0.07071067811865475
Fx2_a2 0 x2_a2 V2 3.5355339059327378
Rp2_a2 0 x2_a2 2.588824245396366e-13
Cx3_a2 x3_a2 0 1.0
Gx3_a2 0 x3_a2 p2 0 0.07071067811865475
Fx3_a2 0 x3_a2 V2 3.5355339059327378
Rp3_a2 0 x3_a2 6.430307000436848e-13
Cx4_a2 x4_a2 0 1.0
Gx4_a2 0 x4_a2 p2 0 0.07071067811865475
Fx4_a2 0 x4_a2 V2 3.5355339059327378
Rp4_a2 0 x4_a2 5.83470294586987e-13
Cx5_a2 x5_a2 0 1.0
Gx5_a2 0 x5_a2 p2 0 0.07071067811865475
Fx5_a2 0 x5_a2 V2 3.5355339059327378
Rp5_a2 0 x5_a2 1.2803637391134486e-12
Cx6_a2 x6_a2 0 1.0
Gx6_a2 0 x6_a2 p2 0 0.07071067811865475
Fx6_a2 0 x6_a2 V2 3.5355339059327378
Rp6_a2 0 x6_a2 1.033453336010569e-12
Cx7_a2 x7_a2 0 1.0
Gx7_a2 0 x7_a2 p2 0 0.07071067811865475
Fx7_a2 0 x7_a2 V2 3.5355339059327378
Rp7_a2 0 x7_a2 1.778950797836235e-12
Cx8_a2 x8_a2 0 1.0
Gx8_a2 0 x8_a2 p2 0 0.07071067811865475
Fx8_a2 0 x8_a2 V2 3.5355339059327378
Rp8_a2 0 x8_a2 2.490549742398037e-12
Cx9_a2 x9_a2 0 1.0
Gx9_a2 0 x9_a2 p2 0 0.07071067811865475
Fx9_a2 0 x9_a2 V2 3.5355339059327378
Rp9_a2 0 x9_a2 3.304461047458408e-12
Cx10_a2 x10_a2 0 1.0
Gx10_a2 0 x10_a2 p2 0 0.07071067811865475
Fx10_a2 0 x10_a2 V2 3.5355339059327378
Rp10_a2 0 x10_a2 4.615817622466777e-12
Cx11_re_a2 x11_re_a2 0 1.0
Gx11_re_a2 0 x11_re_a2 p2 0 0.1414213562373095
Fx11_re_a2 0 x11_re_a2 V2 7.0710678118654755
Rp11_re_re_a2 0 x11_re_a2 6.831561572348102e-12
Gp11_re_im_a2 0 x11_re_a2 x11_im_a2 0 60789941952.52058
Cx11_im_a2 x11_im_a2 0 1.0
Gp11_im_re_a2 0 x11_im_a2 x11_re_a2 0 -60789941952.52058
Rp11_im_im_a2 0 x11_im_a2 6.831561572348102e-12
Cx12_a2 x12_a2 0 1.0
Gx12_a2 0 x12_a2 p2 0 0.07071067811865475
Fx12_a2 0 x12_a2 V2 3.5355339059327378
Rp12_a2 0 x12_a2 6.375826798187748e-12
Cx13_re_a2 x13_re_a2 0 1.0
Gx13_re_a2 0 x13_re_a2 p2 0 0.1414213562373095
Fx13_re_a2 0 x13_re_a2 V2 7.0710678118654755
Rp13_re_re_a2 0 x13_re_a2 1.1772687098021531e-11
Gp13_re_im_a2 0 x13_re_a2 x13_im_a2 0 88556845052.57948
Cx13_im_a2 x13_im_a2 0 1.0
Gp13_im_re_a2 0 x13_im_a2 x13_re_a2 0 -88556845052.57948
Rp13_im_im_a2 0 x13_im_a2 1.1772687098021531e-11
Cx14_re_a2 x14_re_a2 0 1.0
Gx14_re_a2 0 x14_re_a2 p2 0 0.1414213562373095
Fx14_re_a2 0 x14_re_a2 V2 7.0710678118654755
Rp14_re_re_a2 0 x14_re_a2 8.365289690422088e-12
Gp14_re_im_a2 0 x14_re_a2 x14_im_a2 0 42188287234.93895
Cx14_im_a2 x14_im_a2 0 1.0
Gp14_im_re_a2 0 x14_im_a2 x14_re_a2 0 -42188287234.93895
Rp14_im_im_a2 0 x14_im_a2 8.365289690422088e-12
Cx15_re_a2 x15_re_a2 0 1.0
Gx15_re_a2 0 x15_re_a2 p2 0 0.1414213562373095
Fx15_re_a2 0 x15_re_a2 V2 7.0710678118654755
Rp15_re_re_a2 0 x15_re_a2 1.2948208999488316e-11
Gp15_re_im_a2 0 x15_re_a2 x15_im_a2 0 76174888057.88498
Cx15_im_a2 x15_im_a2 0 1.0
Gp15_im_re_a2 0 x15_im_a2 x15_re_a2 0 -76174888057.88498
Rp15_im_im_a2 0 x15_im_a2 1.2948208999488316e-11
Cx16_re_a2 x16_re_a2 0 1.0
Gx16_re_a2 0 x16_re_a2 p2 0 0.1414213562373095
Fx16_re_a2 0 x16_re_a2 V2 7.0710678118654755
Rp16_re_re_a2 0 x16_re_a2 2.2062911774421782e-11
Gp16_re_im_a2 0 x16_re_a2 x16_im_a2 0 92459106401.36237
Cx16_im_a2 x16_im_a2 0 1.0
Gp16_im_re_a2 0 x16_im_a2 x16_re_a2 0 -92459106401.36237
Rp16_im_im_a2 0 x16_im_a2 2.2062911774421782e-11
Cx17_re_a2 x17_re_a2 0 1.0
Gx17_re_a2 0 x17_re_a2 p2 0 0.1414213562373095
Fx17_re_a2 0 x17_re_a2 V2 7.0710678118654755
Rp17_re_re_a2 0 x17_re_a2 2.2650317303266762e-11
Gp17_re_im_a2 0 x17_re_a2 x17_im_a2 0 86379908967.33153
Cx17_im_a2 x17_im_a2 0 1.0
Gp17_im_re_a2 0 x17_im_a2 x17_re_a2 0 -86379908967.33153
Rp17_im_im_a2 0 x17_im_a2 2.2650317303266762e-11
Cx18_re_a2 x18_re_a2 0 1.0
Gx18_re_a2 0 x18_re_a2 p2 0 0.1414213562373095
Fx18_re_a2 0 x18_re_a2 V2 7.0710678118654755
Rp18_re_re_a2 0 x18_re_a2 4.8800500685664e-11
Gp18_re_im_a2 0 x18_re_a2 x18_im_a2 0 89392790390.888
Cx18_im_a2 x18_im_a2 0 1.0
Gp18_im_re_a2 0 x18_im_a2 x18_re_a2 0 -89392790390.888
Rp18_im_im_a2 0 x18_im_a2 4.8800500685664e-11
Cx19_a2 x19_a2 0 1.0
Gx19_a2 0 x19_a2 p2 0 0.07071067811865475
Fx19_a2 0 x19_a2 V2 3.5355339059327378
Rp19_a2 0 x19_a2 2.8990011862716203e-11
Cx20_re_a2 x20_re_a2 0 1.0
Gx20_re_a2 0 x20_re_a2 p2 0 0.1414213562373095
Fx20_re_a2 0 x20_re_a2 V2 7.0710678118654755
Rp20_re_re_a2 0 x20_re_a2 4.793793934243756e-11
Gp20_re_im_a2 0 x20_re_a2 x20_im_a2 0 87371708654.64984
Cx20_im_a2 x20_im_a2 0 1.0
Gp20_im_re_a2 0 x20_im_a2 x20_re_a2 0 -87371708654.64984
Rp20_im_im_a2 0 x20_im_a2 4.793793934243756e-11
Cx21_re_a2 x21_re_a2 0 1.0
Gx21_re_a2 0 x21_re_a2 p2 0 0.1414213562373095
Fx21_re_a2 0 x21_re_a2 V2 7.0710678118654755
Rp21_re_re_a2 0 x21_re_a2 2.0451332168374075e-10
Gp21_re_im_a2 0 x21_re_a2 x21_im_a2 0 84006258534.86775
Cx21_im_a2 x21_im_a2 0 1.0
Gp21_im_re_a2 0 x21_im_a2 x21_re_a2 0 -84006258534.86775
Rp21_im_im_a2 0 x21_im_a2 2.0451332168374075e-10
Cx22_re_a2 x22_re_a2 0 1.0
Gx22_re_a2 0 x22_re_a2 p2 0 0.1414213562373095
Fx22_re_a2 0 x22_re_a2 V2 7.0710678118654755
Rp22_re_re_a2 0 x22_re_a2 2.032975558017778e-10
Gp22_re_im_a2 0 x22_re_a2 x22_im_a2 0 83691213875.67369
Cx22_im_a2 x22_im_a2 0 1.0
Gp22_im_re_a2 0 x22_im_a2 x22_re_a2 0 -83691213875.67369
Rp22_im_im_a2 0 x22_im_a2 2.032975558017778e-10
Cx23_re_a2 x23_re_a2 0 1.0
Gx23_re_a2 0 x23_re_a2 p2 0 0.1414213562373095
Fx23_re_a2 0 x23_re_a2 V2 7.0710678118654755
Rp23_re_re_a2 0 x23_re_a2 2.7751250416275106e-07
Gp23_re_im_a2 0 x23_re_a2 x23_im_a2 0 73320507111.27255
Cx23_im_a2 x23_im_a2 0 1.0
Gp23_im_re_a2 0 x23_im_a2 x23_re_a2 0 -73320507111.27255
Rp23_im_im_a2 0 x23_im_a2 2.7751250416275106e-07
Cx24_re_a2 x24_re_a2 0 1.0
Gx24_re_a2 0 x24_re_a2 p2 0 0.1414213562373095
Fx24_re_a2 0 x24_re_a2 V2 7.0710678118654755
Rp24_re_re_a2 0 x24_re_a2 0.010042324306513778
Gp24_re_im_a2 0 x24_re_a2 x24_im_a2 0 62894685110.805626
Cx24_im_a2 x24_im_a2 0 1.0
Gp24_im_re_a2 0 x24_im_a2 x24_re_a2 0 -62894685110.805626
Rp24_im_im_a2 0 x24_im_a2 0.010042324306513778
.ENDS s_equivalent
