* EQUIVALENT CIRCUIT FOR VECTOR FITTED S-MATRIX
* Created using scikit-rf vectorFitting.py
*
.SUBCKT s_equivalent p1 p2
*
* Port network for port 1
V1 p1 s1 0
R1 s1 0 50.0
Gd1_1 0 s1 p1 0 0.020000125554040068
Fd1_1 0 s1 V1 1.0000062777020036
Gr1_1_1 0 s1 x1_a1 0 -297314021734.3128
Gr2_1_1 0 s1 x2_a1 0 3869043646.98523
Gr3_re_1_1 0 s1 x3_re_a1 0 119645604.19785519
Gr3_im_1_1 0 s1 x3_im_a1 0 -690417396.4197
Gr4_re_1_1 0 s1 x4_re_a1 0 -18823396.92754804
Gr4_im_1_1 0 s1 x4_im_a1 0 -18144872.439857323
Gr5_1_1 0 s1 x5_a1 0 11771314268.223022
Gr6_1_1 0 s1 x6_a1 0 -82617740.95236345
Gd1_2 0 s1 p2 0 5.893035572038576e-09
Fd1_2 0 s1 V2 2.946517786019288e-07
Gr1_1_2 0 s1 x1_a2 0 705349383.2262652
Gr2_1_2 0 s1 x2_a2 0 -8785276440.192488
Gr3_re_1_2 0 s1 x3_re_a2 0 -2157917883.9318585
Gr3_im_1_2 0 s1 x3_im_a2 0 4018826054.0773063
Gr4_re_1_2 0 s1 x4_re_a2 0 -75429.41157932377
Gr4_im_1_2 0 s1 x4_im_a2 0 -164255.37216277627
Gr5_1_2 0 s1 x5_a2 0 12401448190.694637
Gr6_1_2 0 s1 x6_a2 0 -5880077.322351852
*
* State networks driven by port 1
Cx1_a1 x1_a1 0 1.0
Gx1_a1 0 x1_a1 p1 0 0.07071067811865475
Fx1_a1 0 x1_a1 V1 3.5355339059327378
Rp1_a1 0 x1_a1 2.0857685331652827e-12
Cx2_a1 x2_a1 0 1.0
Gx2_a1 0 x2_a1 p1 0 0.07071067811865475
Fx2_a1 0 x2_a1 V1 3.5355339059327378
Rp2_a1 0 x2_a1 5.009703795640609e-12
Cx3_re_a1 x3_re_a1 0 1.0
Gx3_re_a1 0 x3_re_a1 p1 0 0.1414213562373095
Fx3_re_a1 0 x3_re_a1 V1 7.0710678118654755
Rp3_re_re_a1 0 x3_re_a1 2.560081499885945e-11
Gp3_re_im_a1 0 x3_re_a1 x3_im_a1 0 143834445898.87234
Cx3_im_a1 x3_im_a1 0 1.0
Gp3_im_re_a1 0 x3_im_a1 x3_re_a1 0 -143834445898.87234
Rp3_im_im_a1 0 x3_im_a1 2.560081499885945e-11
Cx4_re_a1 x4_re_a1 0 1.0
Gx4_re_a1 0 x4_re_a1 p1 0 0.1414213562373095
Fx4_re_a1 0 x4_re_a1 V1 7.0710678118654755
Rp4_re_re_a1 0 x4_re_a1 4.001467419298024e-10
Gp4_re_im_a1 0 x4_re_a1 x4_im_a1 0 35675374986.65728
Cx4_im_a1 x4_im_a1 0 1.0
Gp4_im_re_a1 0 x4_im_a1 x4_re_a1 0 -35675374986.65728
Rp4_im_im_a1 0 x4_im_a1 4.001467419298024e-10
Cx5_a1 x5_a1 0 1.0
Gx5_a1 0 x5_a1 p1 0 0.07071067811865475
Fx5_a1 0 x5_a1 V1 3.5355339059327378
Rp5_a1 0 x5_a1 2.89900178370548e-11
Cx6_a1 x6_a1 0 1.0
Gx6_a1 0 x6_a1 p1 0 0.07071067811865475
Fx6_a1 0 x6_a1 V1 3.5355339059327378
Rp6_a1 0 x6_a1 9.352084011157336e-11
*
* Port network for port 2
V2 p2 s2 0
R2 s2 0 50.0
Gd2_1 0 s2 p1 0 5.893035572038576e-09
Fd2_1 0 s2 V1 2.946517786019288e-07
Gr1_2_1 0 s2 x1_a1 0 705349383.2262652
Gr2_2_1 0 s2 x2_a1 0 -8785276440.192488
Gr3_re_2_1 0 s2 x3_re_a1 0 -2157917883.9318585
Gr3_im_2_1 0 s2 x3_im_a1 0 4018826054.0773063
Gr4_re_2_1 0 s2 x4_re_a1 0 -75429.41157932405
Gr4_im_2_1 0 s2 x4_im_a1 0 -164255.37216277624
Gr5_2_1 0 s2 x5_a1 0 12401448190.694637
Gr6_2_1 0 s2 x6_a1 0 -5880077.322351853
Gd2_2 0 s2 p2 0 0.02000014692114807
Fd2_2 0 s2 V2 1.0000073460574035
Gr1_2_2 0 s2 x1_a2 0 -4142057882.057135
Gr2_2_2 0 s2 x2_a2 0 -172840762780.14984
Gr3_re_2_2 0 s2 x3_re_a2 0 11280758349.649445
Gr3_im_2_2 0 s2 x3_im_a2 0 -16712651484.94936
Gr4_re_2_2 0 s2 x4_re_a2 0 7004948.599808175
Gr4_im_2_2 0 s2 x4_im_a2 0 -12345214.402657524
Gr5_2_2 0 s2 x5_a2 0 12041502096.838554
Gr6_2_2 0 s2 x6_a2 0 121581629.49539348
*
* State networks driven by port 2
Cx1_a2 x1_a2 0 1.0
Gx1_a2 0 x1_a2 p2 0 0.07071067811865475
Fx1_a2 0 x1_a2 V2 3.5355339059327378
Rp1_a2 0 x1_a2 2.0857685331652827e-12
Cx2_a2 x2_a2 0 1.0
Gx2_a2 0 x2_a2 p2 0 0.07071067811865475
Fx2_a2 0 x2_a2 V2 3.5355339059327378
Rp2_a2 0 x2_a2 5.009703795640609e-12
Cx3_re_a2 x3_re_a2 0 1.0
Gx3_re_a2 0 x3_re_a2 p2 0 0.1414213562373095
Fx3_re_a2 0 x3_re_a2 V2 7.0710678118654755
Rp3_re_re_a2 0 x3_re_a2 2.560081499885945e-11
Gp3_re_im_a2 0 x3_re_a2 x3_im_a2 0 143834445898.87234
Cx3_im_a2 x3_im_a2 0 1.0
Gp3_im_re_a2 0 x3_im_a2 x3_re_a2 0 -143834445898.87234
Rp3_im_im_a2 0 x3_im_a2 2.560081499885945e-11
Cx4_re_a2 x4_re_a2 0 1.0
Gx4_re_a2 0 x4_re_a2 p2 0 0.1414213562373095
Fx4_re_a2 0 x4_re_a2 V2 7.0710678118654755
Rp4_re_re_a2 0 x4_re_a2 4.001467419298024e-10
Gp4_re_im_a2 0 x4_re_a2 x4_im_a2 0 35675374986.65728
Cx4_im_a2 x4_im_a2 0 1.0
Gp4_im_re_a2 0 x4_im_a2 x4_re_a2 0 -35675374986.65728
Rp4_im_im_a2 0 x4_im_a2 4.001467419298024e-10
Cx5_a2 x5_a2 0 1.0
Gx5_a2 0 x5_a2 p2 0 0.07071067811865475
Fx5_a2 0 x5_a2 V2 3.5355339059327378
Rp5_a2 0 x5_a2 2.89900178370548e-11
Cx6_a2 x6_a2 0 1.0
Gx6_a2 0 x6_a2 p2 0 0.07071067811865475
Fx6_a2 0 x6_a2 V2 3.5355339059327378
Rp6_a2 0 x6_a2 9.352084011157336e-11
.ENDS s_equivalent
